data/polar.json
{"reaction_name": "Knorr pyrazole synthesis", "rsmi": "[CH3:1][C:2](=[O:3])[CH:4]([H:14])[C:5](=[O:6])[CH3:7].[N:8]([H:12])([H:13])[N:9]([H:10])[H:11]>>[CH3:1][c:2]1[n:8]([H:12])[n:9][c:5]([CH3:7])[cH:4]1.[O:3]([H:10])[H:13].[O:6]([H:11])[H:14]", "epd": [["LP-/Sigma+", [8], [2, 8]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 10]], ["Sigma-/LP+", [9, 10], [9]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 13]], ["Sigma-/LP+", [8, 13], [8]], ["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 11]], ["Sigma-/LP+", [9, 11], [9]], ["LP-/Sigma+", [9], [5, 9]], ["Pi-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 14]], ["Sigma-/LP+", [4, 14], [4]], ["LP-/Pi+", [4], [2, 4]], ["LP-/Pi+", [9], [5, 9]]]}
{"reaction_name": "Allylic SN2′ substitution", "rsmi": "[CH3:2][CH:3]([CH:6]=[CH2:4])[Cl:7].[O-:1][CH3:5]>>[Cl-:7].[O:1]([CH2:4][CH:6]=[CH:3][CH3:2])[CH3:5]", "epd": [["Sigma-/LP+", [3, 7], [7]], ["Pi-/Pi+", [4, 6], [3, 6]], ["LP-/Sigma+", [1], [1, 4]]]}
{"reaction_name": "Cationic ring-opening polymerization", "rsmi": "[O+:1]1([CH3:2])[CH2:3][CH2:4][CH2:5][CH2:6]1.[O:7]1[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:2][O:1][CH2:6][CH2:5][CH2:4][CH2:3][O+:7]1[CH2:8][CH2:9][CH2:10][CH2:11]1", "epd": [["Sigma-/LP+", [1, 3], [1]], ["LP-/Sigma+", [7], [3, 7]]]}
{"reaction_name": "NHC redox amidation", "rsmi": "[CH3:1][C:4]([H:6])=[O:7].[H:2][NH2:5].[O:3]=[C:19]1[C:18]([C:26]([CH3:27])([CH3:28])[CH3:29])=[CH:17][C:16](=[C:15]2[CH:14]=[C:13]([C:10]([CH3:9])([CH3:11])[CH3:12])[C:32](=[O:8])[C:31]([C:33]([CH3:34])([CH3:35])[CH3:36])=[CH:30]2)[CH:21]=[C:20]1[C:22]([CH3:23])([CH3:24])[CH3:25]>>[CH3:1][C:4]([NH2:5])=[O:7].[H:2][O:3][C:19]1=[C:18]([C:26]([CH3:27])([CH3:28])[CH3:29])[CH:17]=[C:16]([C:15]2=[CH:30][C:31]([C:33]([CH3:34])([CH3:35])[CH3:36])=[C:32]([O:8][H:6])[C:13]([C:10]([CH3:9])([CH3:11])[CH3:12])=[CH:14]2)[CH:21]=[C:20]1[C:22]([CH3:23])([CH3:24])[CH3:25]", "epd": [["LP-/Sigma+", [5], [4, 5]], ["Sigma-/LP+", [2, 5], [5]], ["LP-/Sigma+", [3], [2, 3]], ["Sigma-/Pi+", [4, 6], [15, 30]], ["Pi-/Pi+", [30, 31], [31, 32]], ["Pi-/LP+", [8, 32], [8]], ["LP-/Sigma+", [8], [6, 8]], ["Pi-/Pi+", [15, 16], [16, 17]], ["Pi-/Pi+", [17, 18], [18, 19]], ["Pi-/LP+", [3, 19], [3]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:1]1(=[O:9])[CH:18]=[CH:12][C:16](=[N+:20]([O-:14])[O-:15])[CH:13]=[CH:19]1.[C:2](#[N:7])[C:17]([C:3]#[N:8])=[CH:4][c:21]1[cH:5][cH:10][cH:22][cH:11][cH:6]1>>[c:1]1([O:9][CH:4]([C:17](=[C:2]=[N-:7])[C:3]#[N:8])[c:21]2[cH:5][cH:10][cH:22][cH:11][cH:6]2)[cH:18][cH:12][c:16]([N+:20](=[O:14])[O-:15])[cH:13][cH:19]1", "epd": [["LP-/Pi+", [14], [20, 14]], ["Pi-/Pi+", [16, 20], [12, 16]], ["Pi-/Pi+", [18, 12], [1, 18]], ["Pi-/Sigma+", [9, 1], [9, 4]], ["Pi-/Pi+", [4, 17], [17, 2]], ["Pi-/LP+", [2, 7], [7]]]}
{"reaction_name": "Michael addition", "rsmi": "[Cl-:11].[O:1]=[C:18]1[N:5]([CH3:15])[C:17](=[O:7])[N:6]([CH3:16])[C:19](=[O:2])[C:12]1=[CH:14][c:8]1[cH:20][cH:3][c:13]([O:10][CH3:9])[cH:4][cH:21]1>>[O-:1][c:18]1[n:5]([CH3:15])[c:17](=[O:7])[n:6]([CH3:16])[c:19](=[O:2])[c:12]1[CH:14]([c:8]1[cH:20][cH:3][c:13]([O:10][CH3:9])[cH:4][cH:21]1)[Cl:11]", "epd": [["LP-/Sigma+", [11], [11, 14]], ["Pi-/Pi+", [14, 12], [12, 18]], ["Pi-/LP+", [18, 1], [1]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:6][C:22]1=[C:24]([Cl:17])[C:9](=[O:11])[C:8](=[O:10])[C:25]([Cl:18])=[C:23]1[Cl:7].[cH:1]1[c:21]([CH:12]=[C:14]2[S:4][c:19]3[cH:15][cH:5][cH:13][cH:3][c:16]3[N:29]2[CH3:20])[cH:2][cH:27][cH:28][cH:26]1>>[cH:1]1[c:21]([CH:12]([C:8]2([O-:10])[C:9](=[O:11])[C:24]([Cl:17])=[C:22]([Cl:6])[C:23]([Cl:7])=[C:25]2[Cl:18])[c:14]2[s:4][c:19]3[cH:15][cH:5][cH:13][cH:3][c:16]3[n+:29]2[CH3:20])[cH:2][cH:27][cH:28][cH:26]1", "epd": [["LP-/Pi+", [29], [14, 29]], ["Pi-/Sigma+", [12, 14], [12, 8]], ["Pi-/LP+", [8, 10], [10]]]}
{"reaction_name": "Internal redox of α-hydroxy aldehydes", "rsmi": "[H:6][O-:8].[O:1]([H:4])[CH2:7][C:2](=[O:3])[H:5]>>[H:5][H:6].[O:1]([H:4])[CH2:7][C:2](=[O:3])[O-:8]", "epd": [["LP-/Sigma+", [8], [2, 8]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Pi+", [3], [2, 3]], ["Sigma-/Sigma+", [2, 5], [5, 6]], ["Sigma-/LP+", [6, 8], [8]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:9]1[cH:3][n:8][c:12]2[c:15]([n+:7]([O-:5])[o:10][n:20]2)[cH:16]1)(=[O:17])[O-:18].[S:2]([c:4]1[cH:21][cH:13][cH:11][cH:14][cH:22]1)([O-:6])=[O:19]>>[N+:1](=[C:9]1[CH:3]=[N:8][c:12]2[c:15]([n+:7]([O-:5])[o:10][n:20]2)[CH:16]1[S+:2]([c:4]1[cH:21][cH:13][cH:11][cH:14][cH:22]1)([O-:6])=[O:19])([O-:17])[O-:18]", "epd": [["LP-/Sigma+", [2], [2, 16]], ["Pi-/Pi+", [16, 9], [9, 1]], ["Pi-/LP+", [1, 17], [17]]]}
